US06759410B1
b) (+/−)-2-[(1-phenyl)ethylamino]-6-(phenyl)benzylamine
The product of example 3a above, (+/−)-2-[(1-phenyl)ethylamino]-6-phenybenzonitrile, (0.13 g, 0.43 mmol) was dissolved in dry tetrahydrofuran (10 mL) and stirred under argon at room temperature. Lithium aluminum hydride (0.172 g, 4.3 mmol) was added and the mixture heated to reflux under argon for 20 hours. The reaction mixture was cooled to room temperature and anhydrous sodium sulfate was added followed by the addition of a freshly prepared saturated solution of anhydrous sodium sulfate. The solvent was evaporated and the residue triturated with ethyl acetate, filtered and evaporated. Flash chromatography on silica gel eluted with 0-3% methanol in methylene chloride followed by recrystallization from ethyl acetate/hexane gave the title compound as a white crystalline solid. ES (+) MS n/e=303 (MH+)

reactant | (+/−)-2-[(1-phenyl)ethylamino]-6-phenybenzonitrile | 0.43 mmol, 0.13 g | C1(=CC=CC=C1)C(C)NC1=C(C#N)C(=CC=C1)C1=CC=CC=C1 | C21H18N2
reactant | Lithium aluminum hydride | 4.3 mmol, 0.172 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (+/−)-2-[(1-phenyl)ethylamino]-6-(phenyl)benzylamine | C1(=CC=CC=C1)C(C)NC1=C(CN)C(=CC=C1)C1=CC=CC=C1 | C21H22N2
